US06455528B1
(2) 1-Acetyl-4-(4,6-bis(dimethylamino)pyrimidin-2-yl)piperazine
1-Acetyl-4-(6-(dimethylamino)-4-fluoropyrimidin-2-yl)piperazine (1.0 g) was dissolved in 12% dimethylamine-ethanol solution (30 ml) in an autoclave, and the mixture was stirred at 100° C. for 5 hr. The reaction mixture was concentrated under reduced pressure and chloroform was added to the reside. The chloroform solution was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give the title compound (1.3 g) as a pale-yellow solid.

reactant | 1-Acetyl-4-(6-(dimethylamino)-4-fluoropyrimidin-2-yl)piperazine | 1.0 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC(=N1)F)N(C)C | C12H18FN5O
reactant | dimethylamine ethanol | 30 ml | CNC.C(C)O
product | 1-Acetyl-4-(4,6-bis(dimethylamino)pyrimidin-2-yl)piperazine | 1.3 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC(=N1)N(C)C)N(C)C | C14H24N6O
